US08017789B2
In 50 mL of methylene chloride was suspended 10.0 g of N,2-dihydroxy-4-(hydroxymethyl)benzamide. To this, 0.21 mL of N,N-dimethylformamide was added. This was cooled and 8.36 mL of thionyl chloride was added dropwise under ice-cooling. After 2 hours of stirring under heating reflux, 13 mL of solvent was distilled off under atmospheric pressure. To the reaction mixture was added 13 mL of methylene chloride, 4.64 mL of pyridine was added dropwise at 20-30° C., and the results were stirred for 1 hour at the same temperature. After adding 20 mL of water and 50 mL of acetone, 50 mL of solvent was distilled off under atmospheric pressure, solids were filtered, and 6.45 g of 6-(chloromethyl)-1,2-benzisoxazol-3-ol in the form of a pale yellowish-white solid was obtained.

reactant | N,2-dihydroxy-4-(hydroxymethyl)benzamide | 10.0 g | ONC(C1=C(C=C(C=C1)CO)O)=O | C8H9NO4
reactant | N,N-dimethylformamide | 0.21 mL | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 8.36 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 6-(chloromethyl)-1,2-benzisoxazol-3-ol | 6.45 g | ClCC1=CC2=C(C(=NO2)O)C=C1 | C8H6ClNO2
